US05231101
Ethylenediamine (4 ml) was added to 0.5 g of 8-cyano-11-(1-ethoxycarbonylmethyl-4-piperidylidene)6,11-dihydro-5H-benzo[5,6]-cyclohepta[1,2-b]pyridine, followed by stirring at 70°-80° C. for 3 hours. After the reaction, water was added and the resulting mixture was extracted with ethyl acetate. The extract was dried over anhydrous Na2SO4. The ethyl acetate was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column and, from relevant fractions eluted with chloroform:methanol (20:1 - 10:1), 0.32 g of 8-cyano-11-[1-(2-aminoethylcarbamoylmethyl)-4-piperidylidene]-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine was obtained (yield: 62%).

reactant | Ethylenediamine | 4 ml | C(CN)N | C2H8N2
reactant | 8-cyano-11-(1-ethoxycarbonylmethyl-4-piperidylidene)6,11-dihydro-5H-benzo[5,6]-cyclohepta[1,2-b]pyridine | 0.5 g | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)CC(=O)OCC)C1 | C24H25N3O2
solvent | water | O | H2O
product | 8-cyano-11-[1-(2-aminoethylcarbamoylmethyl)-4-piperidylidene]-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 0.32 g, yield: 62% | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)CC(NCCN)=O)C1 | C24H27N5O
